US06835733B2
Preparation of 5-Bromo-2-naphthalenecarboxylic acid, Methyl Ester
5-Bromo-2-naphthoic acid (17.33 g, 69 mmol) and 250 mL of MeOH were combined in a flask under N2 atmosphere. Thionyl chloride (5.84 mL, 80 mmol) was added dropwise over 15 minutes at a temperature of 25-30° C. resulting in a pale yellow mixture. The mixture was heated at reflux for 3¼ hours. The resulting yellow solution was concentrated under vacuum to 137.4 g of solution and then placed in the freezer overnight. The resulting thick mixture was filtered and the solid was washed with 100 mL of cold MeOH. The solid was dried under vacuum at 50° C. to give 11.39 g of the intermediate title compound as white crystals. A second crop was filtered and washed with 100 mL of cold MeOH. The solid was dried to 1.31 g of white crystals. Yield: 69%, 2 crops.

reactant | 5-Bromo-2-naphthoic acid | 69 mmol, 17.33 g | BrC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H7BrO2
reactant | Thionyl chloride | 80 mmol, 5.84 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 250 mL | CO | CH4O
product | 5-Bromo-2-naphthalenecarboxylic acid, Methyl Ester | 11.39 g, Yield: 69% | BrC1=C2C=CC(=CC2=CC=C1)C(=O)OC | C12H9BrO2
